US09278983B2
To a mixture of 6-bromo-2-(2-ethylsulfanylphenyl)-3-methyl-3H-imidazo[4,5-b]pyridine (350 mg) and 1,4-dioxane (5 ml), 3-fluorophenylboronic acid (150 mg), sodium carbonate (320 mg), and dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium(II) (22 mg) were sequentially added. The mixture was heated to 80° C. and stirred with heating for 8 hours. Into the mixture cooled to room temperature, water was poured, and extracted with ethyl acetate. The organic layer was dried over sodium sulfate, and concentrated under reduced pressure. The resulting residue was subjected to silica gel column chromatography to give 240 mg of 2-(2-ethylsulfanylphenyl)-6-(3-fluorophenyl)-3-methyl-3H-imidazo[4,5-b]pyridine (hereinafter referred to as Present Compound 61).

reactant | 6-bromo-2-(2-ethylsulfanylphenyl)-3-methyl-3H-imidazo[4,5-b]pyridine | 350 mg | BrC=1C=C2C(=NC1)N(C(=N2)C2=C(C=CC=C2)SCC)C | C15H14BrN3S
reactant | 1,4-dioxane | 5 ml | O1CCOCC1 | C4H8O2
reactant | 3-fluorophenylboronic acid | 150 mg | FC=1C=C(C=CC1)B(O)O | C6H6BFO2
reactant | sodium carbonate | 320 mg | C([O-])([O-])=O.[Na+].[Na+]
catalyst | dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium(II) | 22 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | water | O | H2O
product | 2-(2-ethylsulfanylphenyl)-6-(3-fluorophenyl)-3-methyl-3H-imidazo[4,5-b]pyridine | 240 mg | C(C)SC1=C(C=CC=C1)C1=NC=2C(=NC=C(C2)C2=CC(=CC=C2)F)N1C | C21H18FN3S
